US04172943
{[10-Hydroxy-5,5-dimethyl-8-(1,1-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]acetyl}urea (VIII)
The above-titled compound was prepared by reacting 10-hydroxy-5,5-dimethyl-8-(1,1-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine with chloroacetyl-urea according to the method of Example 2.

reactant | 10-hydroxy-5,5-dimethyl-8-(1,1-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine | OC1=CC(=CC2=C1C=1CNCCC1C(O2)(C)C)C(CCCCCC)(C)C | C23H35NO2
reactant | chloroacetyl-urea | ClCC(=O)NC(=O)N | C3H5ClN2O2
product | {[10-Hydroxy-5,5-dimethyl-8-(1,1-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]acetyl}urea | OC1=CC(=CC2=C1C=1CN(CCC1C(O2)(C)C)CC(=O)NC(=O)N)C(CCCCCC)(C)C | C26H39N3O4
